US07301022B2
N-(4-(6-(2((4-Benzylmorpholin-2-yl)methylamino)-6-(trifluoromethyl)-pyridin-3-yl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide.
To a solution of 4-(6-(2((4-benzylmorpholin-2-yl)methylamino)-6-(trifluoromethyl)pyridin-3-yl)pyrimidin-4-yloxy)benzo[d]thiazol-2-amine, Example 1(c), (110 mg, 0.18 mmol) and DMAP (10 mg, 0.08 mmol, Aldrich) in DCM (8 mL) was added acetic anhydride (90 μL, 0.9 mmol, Aldrich). The mixture was stirred at room temperature for 18 h and evaporated under reduced pressure. The residue was dissolved in EtOAc and the solution was washed with a sat. aqueous solution of NaHCO3, H2O and brine, dried over Na2SO4, and filtered. The filtrate was evaporated in vacuo and the residue was purified by silica gel column chromatography [2% (2N NH3 in MeOH)/DCM] to give the title compound as a light-yellow solid. MS (ESI, pos. ion.) m/z: 636 (M+1).

reactant | 4-(6-(2((4-benzylmorpholin-2-yl)methylamino)-6-(trifluoromethyl)pyridin-3-yl)pyrimidin-4-yloxy)benzo[d]thiazol-2-amine | C(C1=CC=CC=C1)N1CC(OCC1)CNC1=NC(=CC=C1C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)N)C(F)(F)F | C29H26F3N7O2S
reactant | acetic anhydride | 0.9 mmol, 90 μL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 0.08 mmol, 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(6-(2((4-Benzylmorpholin-2-yl)methylamino)-6-(trifluoromethyl)-pyridin-3-yl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide | C(C1=CC=CC=C1)N1CC(OCC1)CNC1=NC(=CC=C1C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O)C(F)(F)F | C31H28F3N7O3S
